US07514446B2
To a mixture of 2-[(2-chloro-5-nitropyrimidin-4-yl)amino]benzoic acid (52 mg, 0.178 mmol) and 3,4,5-trimethoxyaniline (34 mg, 0.185 mmol) in 2-propanol (2 mL) was added 1N HCl in diethyl ether (50 uL, 0.05 mmol). The reaction mixture was heated at 90° C. for 30 hours. After the reaction was cooled to room temperature the mixture was filtered, and the solid was washed with 2-propanol, hexane, and ethyl acetate. The solid was then dried under vacuum to give 2-({5-nitro-2-[(3,4,5-trimethoxyphenyl)-amino]pyrimidin-4-yl}amino)benzoic acid hydrochloride (53 mg, 63%) as a dirty orange solid. 1H NMR (DMSO-d6/D2O): δ 9.14 (s, 1H), 8.47 (m, 1 H), 8.02 (d, 1 H), 7.46 (m, 1 H), 7.26 (t, 1 H), 6.95 (s, 2 H), 3.69 (s, 3 H), 3.63 (s, 6 H); MS m/z 441 (M+1).

reactant | 2-[(2-chloro-5-nitropyrimidin-4-yl)amino]benzoic acid | 0.178 mmol, 52 mg | ClC1=NC=C(C(=N1)NC1=C(C(=O)O)C=CC=C1)[N+](=O)[O-] | C11H7ClN4O4
reactant | 3,4,5-trimethoxyaniline | 0.185 mmol, 34 mg | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | HCl | 1N | Cl | ClH
reactant | diethyl ether | 0.05 mmol, 50 uL | C(C)OCC | C4H10O
solvent | 2-propanol | 2 mL | CC(C)O | C3H8O
product | 2-({5-nitro-2-[(3,4,5-trimethoxyphenyl)-amino]pyrimidin-4-yl}amino)benzoic acid hydrochloride | 53 mg, 63% | Cl.[N+](=O)([O-])C=1C(=NC(=NC1)NC1=CC(=C(C(=C1)OC)OC)OC)NC1=C(C(=O)O)C=CC=C1 | InChI=1S/C20H19N5O7.ClH/c1-30-15-8-11(9-16(31-2)17(15)32-3)22-20-21-10-14(25(28)29)18(24-20)23-13-7-5-4-6-12(13)19(26)27;/h4-10H,1-3H3,(H,26,27)(H2,21,22,23,24);1H
